US04804665
8-tert-Butyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride (1.5 g) in dimethylformamide (100 ml) was added triethylamine (1 ml), followed by tert-butyl dicarbonate (2.05 ml), and this was followed by stirring at room temperature for 1 hour. The solvent was evaporated off under reduced pressure. To the residual oil dichloromethane (50 ml) was added, after which it was washed with a 10% aqueous solution of citric acid, then with water. After drying the organic layer with anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The resulting residual solid was recrystallized with ethyl ether to obtain 1.4 g of a colorless crystal having a melting point of 117° C.

reactant | 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 1.5 g | Cl.CON1C(C2(CC1=O)CCNCC2)=O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl dicarbonate | 2.05 ml | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 8-tert-Butyloxycarbonyl-2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione | 1.4 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)OC)=O)CC1 | C14H22N2O5
